US06599942B1
A mixture of the title A compound, 3,5-dimethyl-4-(4′-methoxyphenoxy)nitrobenzene (16.4 g, 60 mmol), acetic acid (AcOH; 100 mL) and aqueous 48% hydrobromic acid (HBr; 100 mL) is heated at 120° C. for 16 h. The mixture is cooled to RT, diluted with water (200 mL) and the precipitated product is collected by vacuum filtration, washed with water and hexanes and dried in vacuo to afford 3,5-dimethyl-4-(4′-hydroxyphenoxy)nitrobenzene: NMR (CDCl3) 2.22 (s, 6H), 6.62 (d, 2H, J=8.7), 6.77 (d, 2H, J=8.7), 8.0 (s, 2H).

reactant | 3,5-dimethyl-4-(4′-methoxyphenoxy)nitrobenzene | 60 mmol, 16.4 g | CC=1C=C(C=C(C1OC1=CC=C(C=C1)OC)C)[N+](=O)[O-] | C15H15NO4
reactant | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
reactant | hydrobromic acid | 100 mL | Br | BrH
solvent | water | 200 mL | O | H2O
product | 3,5-dimethyl-4-(4′-hydroxyphenoxy)nitrobenzene | CC=1C=C(C=C(C1OC1=CC=C(C=C1)O)C)[N+](=O)[O-] | C14H13NO4
